US06600052B1
The 3-fluoro-4-(methylthio)-a-[(trimethylsilyl)-oxy]-benzeneacetonitrile (40.1 g, 149 mmol) was cooled to −78° C. in tetrahydrofuran(400 mL). Lithium hexamethydisilazide (175 mL of 1.0 M in Hexanes, 175 mmol) was added dropwise over 1 hour. The solution was stirred for 1 additional hour at −78° C. Benzylbromide (24.5 g 149 mmol) was added as a solution in tetrahydrofuran (100 mL) over 25 minutes. The solution was kept at −78° C. for 1 hour, warmed to room temperature, and kept at room temperature for six hours. The solution was poured into ethyl acetate (300 mL). Aqueous 1 N hydrochloric acid (200 mL) was added and the solution stirred for 48 hours at room temperature. The layers were separated and the organic layer collected. The organic layer was mixed with aqueous 15% sodium hydroxide and stirred for 30 minutes. The organic layer was collected washed with saturated ammounium chloride(200 mL) and solution was dried over sodium sulfate and solvent removed at reduced pressure to afford a yellow oil. The product was isolated by preparative silica chromatography followed by crystallization from 2% ethyl acetate and hexanes (400 mL). 1-[3-fluoro-4-(methylthio)phenyl]-2-phenylethanone (21.5 grams, 82.0 mmol) was obtained as white crystals. (55% yield): Mp 77.1-77.2° C. 1H NMR (CDCl3/300 MHz) 7.77, (dd, 1H, J=8.0, 1.8 Hz), 7.64 (dd, 1H, J=10.7, 1.8 Hz), 7.20-7.40 (m, 6H), 4.22 (s, 3H), 2.51 (s, 1H).

reactant | 3-fluoro-4-(methylthio)-a-[(trimethylsilyl)-oxy]-benzeneacetonitrile | 149 mmol, 40.1 g | FC=1C=C(C=CC1SC)C(C#N)O[Si](C)(C)C | C12H16FNOSSi
reactant | Lithium hexamethydisilazide | 175 mmol, 1.0 M, 175 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | Benzylbromide | 149 mmol, 24.5 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | 1 N, 200 mL | Cl | ClH
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 1-[3-fluoro-4-(methylthio)phenyl]-2-phenylethanone | 82.0 mmol, 21.5 grams, 55% yield | FC=1C=C(C=CC1SC)C(CC1=CC=CC=C1)=O | C15H13FOS
